US06147111
2-(2-Benzyloxy-4-methoxyphenyl)-3-propyloxybenzyl alcohol
A mixture of 2-iodo-3-propyloxybenzyl alcohol (1.02 g, 3.48 mmol), 2-benzyloxy-4-methoxyphenyl boronic acid (999 mg, 3.83 mmol), Pd(PPh3)4 (200 mg, 0.173 mmol) and 2 M sodium carbonate solution (3.5 ml, 7.96 mmol) was refluxed in toluene (20 ml/ethanol (5 ml) under argon. After 5 hours a further 70 mg of boronic acid was added and refluxing was continued for a further 1 hour. The mixture was cooled, diluted with diethyl ether (200 ml) and washed successively with brine, 5% aqueous sodium hydroxide solution , water and brine and then dried (MgSO4) and concentrated. Purification by chromatography on silica gel gave the title compound as a colourless gum. Yield 1.072 g (81%).

reactant | 2-iodo-3-propyloxybenzyl alcohol | 3.48 mmol, 1.02 g | IC1=C(CO)C=CC=C1OCCC | C10H13IO2
reactant | 2-benzyloxy-4-methoxyphenyl boronic acid | 3.83 mmol, 999 mg | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)OC)B(O)O | C14H15BO4
reactant | sodium carbonate | 7.96 mmol, 2 M, 3.5 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | boronic acid | 70 mg | B(O)O | BH3O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
catalyst | Pd(PPh3)4 | 0.173 mmol, 200 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 2-(2-Benzyloxy-4-methoxyphenyl)-3-propyloxybenzyl alcohol | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)OC)C1=C(CO)C=CC=C1OCCC | C24H26O4
